US08378095B2
To a solution of ethyl 3-(4-methoxyphenyl)-3-oxo-2-(triphenylphosphoranylidene)propionate. (0.510 g, 1.1 mmol) in THF (10 ml) was added water (10 ml) followed by oxone (0.974 g, 1.6 mmol) in portions and the resulting mixture was stirred at room temperature overnight. The solid was removed by filtration and filtrate concentrated in vacuo and extracted with DCM. The combined organic phases were dried over MgSO4 and the solvent removed in vacuo to afford crude ethyl 3-(4-methoxyphenyl)-2,3-dioxopropanoate as a yellow oil (0.500 g) as a mixture with triphenylphosphine oxide which was used without further purification. LCMS (2) 2.38 min; m/z 237.

reactant | ethyl 3-(4-methoxyphenyl)-3-oxo-2-(triphenylphosphoranylidene)propionate | COC1=CC=C(C=C1)C(C(C(=O)OCC)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C30H27O4P
reactant | water | 10 ml | O | H2O
reactant | oxone | 1.6 mmol, 0.974 g | OOS(=O)[O-].[K+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | ethyl 3-(4-methoxyphenyl)-2,3-dioxopropanoate | 0.500 g | COC1=CC=C(C=C1)C(C(C(=O)OCC)=O)=O | C12H12O5
